US05464616
B. Allyl 6β-[(1,3-dithiolan-2-ylidene)(ethoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate
Carbon disulfide (1.5 mL), 1,2-dibromoethane (845 mg, 4.5 mmol) and sodium hydride, 60% (240 mg, 6 mmol) were added sequentially to a solution of allyl 6β-[(ethoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate (1.11 g, 3 mmol) in 3 mL of dimethylformamide at 0° C. The reaction mixture was stirred at 0° C. for 30 min under a nitrogen atmosphere. The mixture was diluted with toluene, washed with water and saturated NaCl solution, and dried over Na2SO4. After concentration, the residue was chromatographed on silica gel with chloroform-ethyl acetate (95:5) as the eluant to give the title compound (926 mg, 65%) as yellow crystals: m.p. 116°-117° C. (ethyl acetate); IR (CHCl3) 1790, 1750, 1680 cm-1; 1 H NMR (CDCl3) δ 1.39 (3H, t, J=7Hz, CH2CH3), 1.49 and 1.66 (each 3H, s, C2 -(CH3)2), 3.32 (4H, s, SCH2CH2S), 4.30-4.40 (2H, m, CH2CH3), 4.46 (1H, s, C3 -H), 4.62-4.68 (2H, m, OCH2CH=CH2), 5.26-5.40 (2H, m OCH2CH=CH2), 5.57 (1H, d, J=4Hz, C5 -H), 5.83 (1H, dd, J=4 and 9Hz, C6 -H), 5.83-6.00 (1H, m, OCH2CH=CH2), 9.05 (1H, d, J=9Hz, NH).

reactant | Carbon disulfide | 1.5 mL | C(=S)=S | CS2
reactant | 1,2-dibromoethane | 4.5 mmol, 845 mg | BrCCBr | C2H4Br2
reactant | sodium hydride | [H-].[Na+]
reactant | allyl 6β-[(ethoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate | 3 mmol, 1.11 g | C(C)OC(=O)CC(=O)N[C@H]1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC=C)C1=O | C16H22N2O6S
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Allyl 6β-[(1,3-dithiolan-2-ylidene)(ethoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate | 926 mg, 65% | S1C(SCC1)=C(C(=O)N[C@H]1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC=C)C1=O)C(=O)OCC | C19H24N2O6S3
